US07994331B2
Production of methyl 5-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazole-6-carboxylate
Methyl 2-[4-(ethylsulfonyl)phenoxy]-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate (7.46 g) was suspended in dimethylformamide (37 ml) and methanol (37 ml), and tin(II) chloride dihydrate (17.3 g) and concentrated hydrochloric acid (15 ml) were added to it, and stirred under heat at 80° C. for 40 minutes. The reaction liquid was restored to room temperature, and gradually added to an aqueous sodium hydrogencarbonate solution and neutralized. Ethyl acetate was added to it, and stirred at room temperature for 30 minutes, and the formed salt was taken out through filtration. The filtrate was washed with water and saturated saline water. After dried, the solvent was evaporated away to obtain the entitled compound as a yellow solid.

reactant | Methyl 2-[4-(ethylsulfonyl)phenoxy]-5-nitro-4-[(2-pyridinylcarbonyl)amino]benzoate | 7.46 g | C(C)S(=O)(=O)C1=CC=C(OC2=C(C(=O)OC)C=C(C(=C2)NC(=O)C2=NC=CC=C2)[N+](=O)[O-])C=C1 | C22H19N3O8S
reactant | tin(II) chloride dihydrate | 17.3 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 37 ml | CN(C=O)C | C3H7NO
solvent | methanol | 37 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-[4-(ethylsulfonyl)phenoxy]-2-(2-pyridinyl)-1H-benzimidazole-6-carboxylate | C(C)S(=O)(=O)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2C(=O)OC)C=C1 | C22H19N3O5S
